US05599829
Glycinamide (10.08 g) and 5-chloro-2-methylphenyl-isothiocyanate (23 g) were heated at reflux in chloroform (300 mL) for 30 minutes. The mixture was then stirred at ambient temperature for 3 hours. The precipitated solid was collected by filtration, washed with chloroform and air dried to give 2-[3-(5-chloro-2-methylphenyl)thioureido]-acetamide (28.5 g), m.p. 162°-164° C. Mass spectrum (El, M.+) m/z 257/259. 1H-NMR (DMSO-d6 ; 400 MHz) δ9.46 (s, 1H), 7.83 (s, 1H), 7.51 (d, 2H), 7.24 (d, 1H), 7.24 (d, 1H), 7.18 (d, 1H), 7.15 (m, 2H), 4.06 (d, 2H), and 2.16 ppm (s, 3H).

reactant | Glycinamide | 10.08 g | NCC(=O)N | C2H6N2O
reactant | 5-chloro-2-methylphenyl-isothiocyanate | 23 g | ClC=1C=CC(=C(C1)N=C=S)C | C8H6ClNS
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-[3-(5-chloro-2-methylphenyl)thioureido]-acetamide | 28.5 g | ClC=1C=CC(=C(C1)NC(NCC(=O)N)=S)C | C10H12ClN3OS
